Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
progressive right leg and hip pain and difficulty walking
 
Major Surgical or Invasive Procedure:
L3-5 LAMINECTOMY AND NON INSTRUMENTED FUSION W/ AUTOGRAFT + 
ALLOGRAFT

 
History of Present Illness:
___ is a pleasant ___ lady who is seen today with 
complaints of right L5 radiculopathy. Her hip pain has gotten 
better after the injection.  She has difficulty in walking. She 
was neurologically intact on examination. Lumbar spine 
radiographs showed presence of grade 1 L3-4 and L4-5 
anterolisthesis without any instability. Her MRI shows presence 
of moderate to severe bilateral lateral recess stenosis at L3-4 
and L4-5 and mild foraminal stenosis at L5-S1. She presents now 
for surgical treatment. 

 
Past Medical History:
Past medical history is positive for high blood pressure
depression/anxiety, other psychiatric conditions, GERD
Past surgical history is positive for right-sided partially
replacement
 
Social History:
She does not work the she drinks about 3 times a week. She is to 
smoke in the past.

 
Physical Exam:
PE: 
VS HR 85, BP 105/51 map 67, RR20, O298% on RA

NAD, A&Ox4
nl resp effort
RRR
Incision c/d/I. HVAc 90cc;remains in place. 
  
Sensory:
___    
     L2     L3      L4         L5        S1          S2
   (Groin) (Knee) (Med Calf) (Grt Toe) (Sm Toe) (Post Thigh)
R    SILT   SILT    SILT       SILT     SILT       SILT 
L    SILT   SILT    SILT       SILT     SILT       SILT 

Motor:
___  Flex(L1) Add(L2) Quad(L3)  TA(L4) ___ ___
R      5       5       5         5      5      5         5      
L      5       5       5         5      5      5         5

 
Pertinent Results:
___ 04:17AM BLOOD WBC-11.1* RBC-3.23* Hgb-9.7* Hct-30.4* 
MCV-94 MCH-30.0 MCHC-31.9* RDW-13.2 RDWSD-45.1 Plt ___
___ 04:17AM BLOOD Plt ___
___ 04:17AM BLOOD Glucose-174* UreaN-15 Creat-1.0 Na-139 
K-4.4 Cl-104 HCO3-24 AnGap-11
___ 04:17AM BLOOD Calcium-8.6 Phos-4.2 Mg-1.5*
 
Brief Hospital Course:
Patient was admitted to the ___ Spine Surgery Service and 
taken to the Operating Room for the above procedure.Refer to the 
dictated operative note for further details.The surgery was 
without complication and the patient was transferred to the PACU 
in a stable ___ were used for postoperative 
DVT prophylaxis.Intravenous antibiotics were continued for 24hrs 
postop per standard protocol.Initial postop pain was controlled 
with oral and IV pain medication.Diet was advanced as 
tolerated.Foley was removed on POD#2. Physical therapy and 
Occupational therapy were consulted for mobilization OOB to 
ambulate and ADL's.Hospital course was otherwise unremarkable.On 
the day of discharge the patient was afebrile with stable vital 
signs, comfortable on oral pain control and tolerating a regular 
diet.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Vitamin D ___ UNIT PO DAILY 
2. Lisinopril 20 mg PO DAILY 
3. Omeprazole 20 mg PO DAILY 
4. TraMADol 50 mg PO DAILY:PRN Pain - Moderate 
5. TraZODone 100 mg PO QHS:PRN insomnia 
6. Vitamin E 400 UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
may take over the counter  
2.  Docusate Sodium 100 mg PO BID 
please take while taking narcotic pain medication 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*14 Tablet Refills:*0 
3.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
please do not operate heavy machinery, drink alcohol or drive  
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*35 Tablet Refills:*0 
4.  Lisinopril 20 mg PO DAILY  
5.  Omeprazole 20 mg PO DAILY  
6.  TraZODone 100 mg PO QHS:PRN insomnia  
7.  Vitamin D ___ UNIT PO DAILY  
8.  Vitamin E 400 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1.  Lumbar spinal stenosis with neurogenic claudication.
2.  Lumbar spinal stenosis, L3 to L5.
3.  L3-L5 degenerative spondylolisthesis.
4.  Degenerative disc disease, L3-L5.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Lumbar Decompression With Fusion:

You have undergone the following operation: Lumbar Decompression 
With Fusion

Immediately after the operation:

•                Activity:You should not lift anything greater 
than 10 lbs for 2 weeks.You will be more comfortable if you do 
not sit or stand more than~45 minutes without getting up and 
walking around.

•                Rehabilitation/ Physical ___ times a 
day you should go for a walk for ___ minutes as part of your 
recovery.You can walk as much as you can tolerate.Limit any kind 
of lifting.

•                Diet: Eat a normal healthy diet.You may have 
some constipation after surgery.You have been given medication 
to help with this issue.

•                Brace:You may have been given a brace.If you 
have been given a brace,this brace is to be worn when you are 
walking.You may take it off when sitting in a chair or while 
lying in bed.

•                Wound Care:Please keep the incision covered 
with a dry dressing on until follow up appointment. If the 
incision is draining cover it with a new sterile dressing.Once 
the incision is completely dry (usually ___ days after the 
operation) you may take a shower and place a new dry dressing 
on. Do not soak the incision in a bath or pool.If the incision 
starts draining at anytime after surgery, do not get the 
incision wet.Cover it with a sterile dressing.Call the office.

•                You should resume taking your normal home 
medications.

•                You have also been given Additional Medications 
to control your pain.Please allow 72 hours for refill of 
narcotic prescriptions,so please plan ahead.You can either have 
them mailed to your home or pick them up at the clinic located 
on ___.We are not allowed to call in or fax narcotic 
prescriptions(oxycontin,oxycodone,percocet) to your pharmacy.In 
addition,we are only allowed to write for pain medications for 
90 days from the date of surgery.

•                Follow up:

                Please Call the office and make an appointment 
for 2 weeks after the day of your operation if this has not been 
done already.

Please call the office if you have a fever>101.5 degrees 
Fahrenheit and/or drainage from your wound.

 
Physical Therapy:
1)Weight bearing as tolerated.2)Gait,balance training.3)No 
lifting >10 lbs.4)No significant bending/twisting. 
Treatments Frequency:
Please keep the incision covered with a dry dressing on until 
follow up appointment. If the incision is draining cover it with 
a new sterile dressing.Once the incision is completely dry 
(usually ___ days after the operation) you may take a shower and 
place a new dry dressing on. Do not soak the incision in a bath 
or pool.If the incision starts draining at anytime after 
surgery, do not get the incision wet.Cover it with a sterile 
dressing.Call the office.

 
Followup Instructions:
___